US06265434B1
Step C: 1-(t-Butoxycarbonyl)-4-(3,3-difluoro-3-phenylpropyl)piperidine
Di-t-butyl dicarbonate (178 mg, 0.816 mmol) was transferred with CH2Cl2 (2×0.5 mL) to a solution of crude 4-(3,3-difluoro-3-phenylpropyl)piperidine (164 mg) in CH2Cl2 (2.0 mL). After stirring at RT for 1 h, the solution was stored at −20° C. for 48 h. The mixture was then diluted into EtOAc (25 mL) and washed with saturated aqueous NaHCO3 (10 mL) followed by saturated aqueous NaCl (10 mL). The organic layer was dried (Na2SO4), decanted, and evaporated. The crude product was purified by flash column chromatography on silica gel, eluting with 94:6 v/v hexanes/EtOAc to give the title compound as 112 mg of colorless syrup: RF: 0.25 (19:1 v/v hexanes/EtOAc). 1H NMR (400 MHz) δ 7.50-7.40 (m, 5H), 4.24-3.99 (m, 2H), 2.64 (bt, J=12, 2H), 2.14 (tm, J=16, 2H), 1.62 (bd, J=12, 2H), 1.45 (s, 9H), 1.42-1.33 (m, 3H), 1.13-1.00 (m, 2H).

reactant | Di-t-butyl dicarbonate | 0.816 mmol, 178 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-(3,3-difluoro-3-phenylpropyl)piperidine | 164 mg | FC(CCC1CCNCC1)(C1=CC=CC=C1)F | C14H19F2N
reactant | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 1-(t-Butoxycarbonyl)-4-(3,3-difluoro-3-phenylpropyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(C1=CC=CC=C1)(F)F | C19H27F2NO2
